US09085583B2
A mixture of 2,2,2-trichloro-1-(2-methyl-1H-pyrrolo[2,3-c]pyridin-3-yl)ethanone (5.24 g, 18.9 mmol) and KOH (1.2 g, 20.9 mmol) in MeOH (100 mL) was stirred at room temperature for 16 hour. The reaction mixture was concentrated to remove MeOH, the residue was partitioned between EA and Water. The organic layer was washed with brine, dried and concentrated to afford methyl 2-methyl-1H-pyrrolo[2,3-c]pyridine-3-carboxylate (3 g, 83%).

reactant | 2,2,2-trichloro-1-(2-methyl-1H-pyrrolo[2,3-c]pyridin-3-yl)ethanone | 18.9 mmol, 5.24 g | ClC(C(=O)C1=C(NC2=CN=CC=C21)C)(Cl)Cl | C10H7Cl3N2O
reactant | KOH | 20.9 mmol, 1.2 g | [OH-].[K+]
reactant | MeOH | 100 mL | CO | CH4O
product | methyl 2-methyl-1H-pyrrolo[2,3-c]pyridine-3-carboxylate | 3 g, 83% | CC1=C(C=2C(=CN=CC2)N1)C(=O)OC | C10H10N2O2
